US07851473B2
(2) N-(3-Methylisothiazol-5-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3-methylisothiazol-5-yl)carbamate (259 mg, 0.893 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.156 ml, 0.893 mmol) in dimethylsulfoxide (2.7 ml) was stirred at 70° C. for 20 hours. Water was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:7) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to obtain the desired product (92.7 mg, 29.5%) as a solid.

reactant | 2,2,2-trichloroethyl (3-methylisothiazol-5-yl)carbamate | 0.893 mmol, 259 mg | CC1=NSC(=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H7Cl3N2O2S
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.893 mmol, 0.156 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.7 ml | CS(=O)C | C2H6OS
product | N-(3-Methylisothiazol-5-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 92.7 mg, 29.5% | CC1=NSC(=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C17H18N6OS2
